US04888432
(a) Preparation of 2-amino-3-cyano-4-chloro-6-nitrobenzo-[b]-thiophene of formula
A solution of 9.2 ml (0.18 mol) of bromine in 72 ml of methylene chloride is added dropwise at room temperature to a suspension of 46 g of 2-chloro-4-nitrophenylcyanothioacetamide (0.18 mol) and 30 g of sodium hydrogencarbonate (0.36 mol) in 650 ml of methylene chloride. This was followed by 2 hours of stirring at room temperature, filtering off with suction and repeated washing of the yellow residue with water.

reactant | bromine | 0.18 mol, 9.2 ml | BrBr | Br2
reactant | 2-chloro-4-nitrophenylcyanothioacetamide | 0.18 mol, 46 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])C(C(=S)N)C#N | C9H6ClN3O2S
reactant | sodium hydrogencarbonate | 0.36 mol, 30 g | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 72 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 650 ml | C(Cl)Cl | CH2Cl2
product | 2-amino-3-cyano-4-chloro-6-nitrobenzo-[b]-thiophene | NC1=C(C2=C(S1)C=C(C=C2Cl)[N+](=O)[O-])C#N | C9H4ClN3O2S
